US06320050B1
A solution of 2-[3-cyclopentyl-2-(3,4-dichlorophenyl)-propionylamino]-thiazole-4-carboxylic acid ethyl ester (prepared in Example 1(B)(f), 600 mg, 1.36 mmol) in absolute ethanol (6 mL) was treated with a 1 N aqueous sodium hydroxide solution (2.85 mL, 2.85 mmol). The reaction mixture was heated under reflux for 15 h. The reaction mixture was allowed to cool to 25° C. and then concentrated in vacuo to remove absolute ethanol. The resulting yellow residue was acidified to pH=2 with concentrated hydrochloric acid and extracted with ethyl acetate (2×100 mL). The combined organic layers were dried over magnesium sulfate, filtered, and concentrated in vacuo. Precipitation from 1/1 hexanes/ethyl acetate afforded 2-[3-cyclopentyl-2-(3,4-dichlorophenyl)-propionylamino]-thiazole-4-carboxylic acid (399 mg, 71%) as a white solid: mp 285-287° C.; FAB-HRMS m/e calcd for C18H18Cl2N2O3S (M+H)+ 413.0493, found 413.0481.

reactant | 2-[3-cyclopentyl-2-(3,4-dichlorophenyl)-propionylamino]-thiazole-4-carboxylic acid ethyl ester | 1.36 mmol, 600 mg | C(C)OC(=O)C=1N=C(SC1)NC(C(CC1CCCC1)C1=CC(=C(C=C1)Cl)Cl)=O | C20H22Cl2N2O3S
reactant | sodium hydroxide | 2.85 mmol, 1 N, 2.85 mL | [OH-].[Na+]
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | 2-[3-cyclopentyl-2-(3,4-dichlorophenyl)-propionylamino]-thiazole-4-carboxylic acid | 399 mg, 71% | C1(CCCC1)CC(C(=O)NC=1SC=C(N1)C(=O)O)C1=CC(=C(C=C1)Cl)Cl | C18H18Cl2N2O3S
